US07842713B2
Preparation of Intermediate 276c: 4-{4-[(Dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylic acid
A suspension of ethyl 4-{4-[(dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylate (400 mg, 1.0 mmol) and LiOH.H2O (200 mg, 4.7 mmol) in MeOH (20 mL) and water (2 mL) was stirred for 4 hr at room temperature. TLC (petroleum ether/EtOAc 4:1) indicated the reaction was complete. The reaction mixture was concentrated to dryness and poured into water (30 mL). The aqueous layer was acidified to pH˜2 with conc. HCl and extracted with EtOAc (20 mL×3). The organic layer was washed with brine (25 mL×2), dried over Na2SO4 and concentrated to afford the desired product (350 mg, 99%) as a yellow solid.

reactant | ethyl 4-{4-[(dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylate | 1.0 mmol, 400 mg | CN(C(=O)C1=CC=C(OC2=CC(=CC3=C2C=C(O3)CC)C(=O)OCC)C=C1)C | C22H23NO5
reactant | LiOH.H2O | 4.7 mmol, 200 mg | O[Li].O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 4-{4-[(Dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylic acid | 350 mg, 99% | CN(C(=O)C1=CC=C(OC2=CC(=CC3=C2C=C(O3)CC)C(=O)O)C=C1)C | C20H19NO5
